US05929085
(b) 10-Methyl-7-nitro-2,3-dihydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine-5,11(10H, 11aH)-dione
To 10-methyl-2,3-dihydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine-5,11(10H, 11aH)-dione (5.7 g, 24.7 mmol) in concentrated sulfuric acid (60 ml) at 0° C. was added potassium nitrate (2.62 g, 25.9 mmol). After stirring for 2 h the mixture was dumped onto ice (500 g) and extracted with ethyl acetate (5×75 ml). The combined extracts were washed with water, dried over magnesium sulfate, filtered, and concentrated to a solid which was recrystallized from ethyl acetate-hexane (5.2 g, 77%), m.p. 160-162° C.

reactant | 10-methyl-2,3-dihydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine-5,11(10H, 11aH)-dione | 24.7 mmol, 5.7 g | CN1C(C2N(C(C3=C1C=CC=C3)=O)CCC2)=O | C13H14N2O2
reactant | potassium nitrate | 25.9 mmol, 2.62 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | 10-Methyl-7-nitro-2,3-dihydro-1H-pyrrolo[2,1-c][1,4]benzodiazapine-5,11(10H, 11aH)-dione | CN1C(C2N(C(C3=C1C=CC(=C3)[N+](=O)[O-])=O)CCC2)=O | C13H13N3O4
